US09376433B2
3-(4-Bromo-phenyl)-7-fluoro-2H-isoquinolin-1-one (159 mg, 0.50 mmol), palladium(II)acetate (5.6 mg, 0.03 mmol), 1,3-bis-(diphenylphosphino)-propane (21.3 mg, 0.05 mmol), 4-pentene-1-ol (51.7 mg, 0.60 mmol) and diisopropylammonium-tetrafluoroborate (142 mg, 0.75 mmol) are weighed into a reaction vial. 1,4-Dioxane (1 ml) is added and the reaction vial is flushed with nitrogen. The resulting suspension is stirred for 1 minute, triethylamine (208 μl, 1.50 mmol) is added and the reaction vial is flushed with nitrogen and closed. The reaction mixture is stirred overnight at 110° C. The reaction mixture is allowed to cool to room temperature. n-Heptane (1.5 ml) and tetrafluoroboric acid (0.21 ml, 54% solution in diethylether, 1.5 mmol) are added and the resulting biphasic mixture is stirred vigorously at room temperature for 3 hours. Triethylamine (69 μl, 0.5 mmol) is added and the reaction mixture is then partitioned between water and dichloromethane. The organic phase is dried over sodium sulfate and evaporated. The residue is chromatographed on a silica gel column with cyclohexane/ethyl acetate as eluent to afford 7-fluoro-3-[4-(2-methyl-tetrahydro-furan-2-yl)-phenyl]-2H-isoquinolin-1-one as white powder; HPLC/MS 2.78 min. (B), [M+H] 324; 1H NMR (500 MHz, DMSO-d6) δ [ppm] 11.58 (s, 1H), 7.85 (dd, J=9.5, 2.8 Hz, 1H), 7.80 (dd, J=8.8, 5.3 Hz, 1H), 7.77-7.71 (m, 2H), 7.62 (td, J=8.7, 2.8 Hz, 1H), 7.53-7.46 (m, 2H), 6.95 (s, 1H), 3.94 (td, J=7.8, 6.4 Hz, 1H), 3.83 (td, J=8.0, 5.7 Hz, 1H), 2.11 (ddd, J=12.0, 8.0, 5.7 Hz, 1H), 2.04 (dt, J=11.9, 7.4 Hz, 1H), 1.97 (dtt, J=15.4, 7.7, 5.6 Hz, 1H), 1.74 (dqd, J=12.0, 7.6, 6.4 Hz, 1H), 1.46 (s, 3H).

reactant | 3-(4-Bromo-phenyl)-7-fluoro-2H-isoquinolin-1-one | 0.50 mmol, 159 mg | BrC1=CC=C(C=C1)C=1NC(C2=CC(=CC=C2C1)F)=O | C15H9BrFNO
reactant | 1,3-bis-(diphenylphosphino)-propane | 0.05 mmol, 21.3 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | 4-pentene-1-ol | 0.60 mmol, 51.7 mg | C(CCC=C)O | C5H10O
reactant | diisopropylammonium tetrafluoroborate | 0.75 mmol, 142 mg | C(C)(C)[NH2+]C(C)C.F[B-](F)(F)F
reactant | triethylamine | 1.50 mmol, 208 μl | C(C)N(CC)CC | C6H15N
reactant | tetrafluoroboric acid | 1.5 mmol, 0.21 ml | F[B-](F)(F)F.[H+]
reactant | Triethylamine | 0.5 mmol, 69 μl | C(C)N(CC)CC | C6H15N
catalyst | palladium(II)acetate | 0.03 mmol, 5.6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | n-Heptane | 1.5 ml | CCCCCCC | C7H16
solvent | 1,4-Dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | 7-fluoro-3-[4-(2-methyl-tetrahydro-furan-2-yl)-phenyl]-2H-isoquinolin-1-one | FC1=CC=C2C=C(NC(C2=C1)=O)C1=CC=C(C=C1)C1(OCCC1)C | C20H18FNO2
